US04477464
An ice cold mixture of 81 mg of 3-[N-(1-carboethoxy-3-phenylpropyl)amino]-2,3-dihydro-1,5-benzoxazepin-4(5H)-one, 15 mg of powdered potassium hydroxide and 6.5 mg of tetrabutylammonium bromide in 3 ml of dry tetrahydrofuran is treated with 32 mg of methyl bromoacetate. The reaction is allowed to stir for 3 hr at room temperature. At this time the solution is filtered and concentrated and the residue is dissolved in 20 ml of ethyl acetate. This is washed with 5 ml of water and dried over potassium carbonate. Concentration under reduced pressure affords 3-[N-(1-carboethoxy-3-phenylpropyl)amino]-5-carbomethoxymethyl-2,3-dihydro-1,5-benzoxazepin-4(5H)-one; NMR (CDCl3) δ 6.35-8.00 (m, 10), 4.30-4.80 (m, 3), 3.67 (s, 3), 1.20 (t, 3); IR (neat) 3300 (NH), 1730 (C=O, ester), 1685 (C=O, lactam) cm-1.

reactant | 3-[N-(1-carboethoxy-3-phenylpropyl)amino]-2,3-dihydro-1,5-benzoxazepin-4(5H)-one | 81 mg | C(=O)(OCC)C(CCC1=CC=CC=C1)NC1COC2=C(NC1=O)C=CC=C2 | C21H24N2O4
reactant | potassium hydroxide | 15 mg | [OH-].[K+]
reactant | methyl bromoacetate | 32 mg | BrCC(=O)OC | C3H5BrO2
catalyst | tetrabutylammonium bromide | 6.5 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3-[N-(1-carboethoxy-3-phenylpropyl)amino]-5-carbomethoxymethyl-2,3-dihydro-1,5-benzoxazepin-4(5H)-one | C(=O)(OCC)C(CCC1=CC=CC=C1)NC1COC2=C(N(C1=O)CC(=O)OC)C=CC=C2 | C24H28N2O6
